US07923450B2
b) [4-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (50 mg, 0.19 mmol) and of crude 6-bromo-2-(4-chloro-phenyl)-cyclohexanone (74 mg, 0.26 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using dichloromethane/methanol (19:1 v/v) as eluent to yield the title compound (16 mg, 19%) as a brown gum. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.37 (s, 1H), 7.79 (s, 1H), 7.68 (d, 1H), 7.66 (s, 2H), 7.50 (d, 1H), 7.26 (d, 1H), 7.17 (d, 1H), 7.03 (s, 1H), 3.80 (m, 1H), 3.80 (s, 3H), 2.87 (m, 2H), 2.18 (m, 2H), 2.14 (s, 3H), 1.90 (m, 2H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.19 mmol, 50 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 6-bromo-2-(4-chloro-phenyl)-cyclohexanone | 0.26 mmol, 74 mg | BrC1CCCC(C1=O)C1=CC=C(C=C1)Cl | C12H12BrClO
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | [4-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 16 mg, 19% | ClC1=CC=C(C=C1)C1CCCC2=C1N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C24H23ClN4OS
